US07592477B2
Step d) Formation of 4-(4-undecyl-1,3-thiazol-2-yl)benzaldehyde
A solution of 1-bromotridecan-2-one (5.54 g, 20 mmol) and 4-(1,3-dioxolan-2-yl)benzenecarbothioamide (4.19 g, 20 mmol) in EtOH (50 mL) was refluxed overnight. After evaporation of the solvent, the residue was taken up in ether, washed with water, brine, dried over MgSO4, filtered. The solvents were evaporated under vacuum to give a yellow oil. Purification on silicagel gave the title product as a yellow solid (4.05 g, 59%). 1H NMR (CDCl3, 300 MHz) δ 10.0 (s, 1H), 8.11 (d, 2H, J=8.3 Hz), 7.93 (d, 2H, J=8.6 Hz), 6.98 (s, 1H), 2.84 (t, 2H, J=7.2 Hz), 1.78-1.72 (m, 2H), 1.50-1.20 (m, 16H), 0.87 (t, 3H, J=6.8 Hz). M+(LC/MS(ESI)): 344.3

reactant | 1-bromotridecan-2-one | 20 mmol, 5.54 g | BrCC(CCCCCCCCCCC)=O | C13H25BrO
reactant | 4-(1,3-dioxolan-2-yl)benzenecarbothioamide | 20 mmol, 4.19 g | O1C(OCC1)C1=CC=C(C=C1)C(N)=S | C10H11NO2S
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-(4-undecyl-1,3-thiazol-2-yl)benzaldehyde | 4.05 g, 59% | C(CCCCCCCCCC)C=1N=C(SC1)C1=CC=C(C=O)C=C1 | C21H29NOS
